US06750219B1
t-Butyl(2S)-hydroxy-3-[4-{4-(pyrimidin-2-yl)piperazin-1-yl}benzoylamino]propionate
Dimethylformamide (5.0 ml) was added to 32.1 mg of 4-{4-(pyrimidin-2-yl)piperazin-1-yl}benzoic acid (WO 99/38849) to prepare a solution, and 24.0 mg of 1-hydroxybenzotriazole and 0.060 ml of N-methylmorpholine were successively added to the solution. A solution of 17.9 mg of intermediate 1 in 5.0 ml of dimethylformamide and 45.6 mg of 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride were added in that order to the mixture, and a reaction was allowed to proceed at room temperature for 24 hr. A saturated aqueous sodium hydrogencarbonate solution (100 ml) was added to the reaction solution. The mixture was extracted three times with 100 ml of ethyl acetate, and the ethyl acetate layers were combined. The combined ethyl acetate layers were washed with 100 ml of water, were dried over anhydrous magnesium sulfate, and were then filtered. The filtrated was concentrated under the reduced pressure. The residue was purified by column chromatography on silica gel (57 g, ethyl acetate-methanol=15:1) to give 37.6 mg of the title compound.

reactant | 4-{4-(pyrimidin-2-yl)piperazin-1-yl}benzoic acid | 32.1 mg | N1=C(N=CC=C1)N1CCN(CC1)C1=CC=C(C(=O)O)C=C1 | C15H16N4O2
reactant | 1-hydroxybenzotriazole | 24.0 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | N-methylmorpholine | 0.060 ml | CN1CCOCC1 | C5H11NO
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 45.6 mg | Cl.C(C)N=C=NCCCN(C)C
reactant | sodium hydrogencarbonate | 100 ml | C(O)([O-])=O.[Na+]
solvent | dimethylformamide | 5.0 ml | CN(C=O)C | C3H7NO
solvent | Dimethylformamide | 5.0 ml | CN(C=O)C | C3H7NO
product | t-Butyl(2S)-hydroxy-3-[4-{4-(pyrimidin-2-yl)piperazin-1-yl}benzoylamino]propionate | 37.6 mg | O[C@H](C(=O)OC(C)(C)C)CNC(C1=CC=C(C=C1)N1CCN(CC1)C1=NC=CC=N1)=O | C22H29N5O4
